2182-04-05 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Mr. [**Known lastname 3605**] is a 37M with a PMH s/f severe alcoholism
   with several ICU admissions for management of airway
   protection/withdrawl in the past, HCV, and HBV, found unresponsive in
   the setting of alcohol intoxication, intubated for airway protection,
   with incidentally diagnosed leukocytosis on routine labs.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2182-4-4**] 03:35 PM
 MULTI LUMEN - START [**2182-4-4**] 05:15 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-4-5**] 02:06 AM
   Heparin Sodium (Prophylaxis) - [**2182-4-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-5**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 98 (70 - 108) bpm
   BP: 113/70(80) {99/57(68) - 133/91(98)} mmHg
   RR: 14 (12 - 14) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70 kg
             Total In:
                                                                    739 mL
                                                                  1,210 mL
   PO:
             TF:
   IVF:
                                                                    739 mL
                                                                  1,210 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                    355 mL
   Urine:
                                                                    110 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    229 mL
                                                                    855 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 389 (389 - 389) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 36
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.39/45/216/27/2
   Ve: 7.8 L/min
   PaO2 / FiO2: 720
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   246 K/uL
   10.3 g/dL
   84 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   143 mEq/L
   30.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2182-4-4**]  06:55 PM
                             [**2182-4-4**]  11:24 PM
                             [**2182-4-5**]  04:21 AM
   WBC
   8.9
   Hct
   30.6
   Plt
   246
   Cr
   0.8
   TCO2
   28
   28
   Glucose
   84
   Other labs: PT / PTT / INR:13.0/28.5/1.1, ALT / AST:99/96, Alk Phos / T
   Bili:74/0.4, Differential-Neuts:75.8 %, Lymph:14.5 %, Mono:5.0 %,
   Eos:4.2 %, Lactic Acid:1.7 mmol/L, LDH:213 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 3605**] is a 37M with a PMH s/f severe alcoholism with several ICU
   admissions for management of airway protection/withdrawl in the past,
   HCV, and HBV, found unresponsive in the setting of alcohol
   intoxication, intubated for airway protection, with incidentally
   diagnosed leukocytosis on routine labs.
   #. Altered mental status: DDX includes ETOH intoxication with level of
   280, other toxic ingestion, intracranial bleed from his fall, seizure
   from ETOH withdrawl vs. trauma. Head CT negative for a bleed, CT Cspine
   pending, and no clear toxic-metabolic abnormalities on initial labs.
   He does have a leukocytosis, however, no fevers or hemodynamic
   instability.  On propofol wean the patient is awake, moving all four
   extremities.
   -Send urine tox, serum osms
   -Follow up final read of CT C-spine and CXR
   #. Hypoxia: In the setting of alcohol intoxication, likely secondary to
   an aspiration event.  CXR is clear by my read.
   -Will follow up final read of CXR
   -STAT ABG on arrival to unit, titrate vent settings prn
   -Will keep intubated overnight, with light sedation, SBT with RISBE in
   AM, plan to extubate early
   #. ETOH intoxication: Patient has a history of withdrawl seizures.
   Also has severe anxiety at baseline, and is difficult to monitor with a
   CIWA scale, as his subjective symptoms have been unreliable
   -Will use vital signs (hyperthermia, HTN, Tachycardia)to monitor ETOH
   withdrawl, and sedate with propofol drip while intubated.
   -Can use diazapam 10mg IV prn ETOH withdrawl once extubated
   -MVI, thiamine, folic acid
   #. Leukocytosis: no current fevers, or signs of sepsis.  CXR and UA
   clear.
   -Will send urine, blood, and sputum cultures if he spikes.
   #. HCV/HBV: previous hx transaminitis, at baseline
   #. Depression/anxiety: No current treatment for this.
   - SW when awake
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2182-4-4**] 05:15 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2182-04-06 07:48:00 Physician Resident Progress Note
Chief Complaint: resp failure
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-4-5**] 11:30 AM
 MULTI LUMEN - STOP [**2182-4-5**] 06:07 PM
   -Extubated w/o complication
   -Fem line D/C'd and peripheral IV placed
   -Got diazepam for objective criteria of withdrawal (tachycardia and
   diaphoresis)
   History obtained from Patient
   Allergies:
   History obtained from PatientPenicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2182-4-6**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2182-4-6**] 04:00 AM
   Other medications:
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems: Pt states he has generalized body pain without a
   specific focus. Also states has SOB
   Flowsheet Data as of  [**2182-4-6**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.7
C (98.1
   HR: 74 (71 - 144) bpm
   BP: 100/65(74) {81/37(48) - 135/82(92)} mmHg
   RR: 14 (8 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 68 Inch
             Total In:
                                                                  5,082 mL
                                                                  1,013 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,262 mL
                                                                  1,013 mL
   Blood products:
   Total out:
                                                                  2,048 mL
                                                                      0 mL
   Urine:
                                                                  2,048 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,034 mL
                                                                  1,013 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 423 (423 - 423) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 14
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 17 cmH2O
   Plateau: 13 cmH2O
   SpO2: 92%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   General Appearance: Thin, Anxious, Diaphoretic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Normal
   Labs / Radiology
   246 K/uL
   10.3 g/dL
   84 mg/dL
   0.8 mg/dL
   27 mEq/L
   3.7 mEq/L
   10 mg/dL
   107 mEq/L
   143 mEq/L
   30.3 %
   8.9 K/uL
        [image002.jpg]
                             [**2182-4-4**]  06:55 PM
                             [**2182-4-4**]  11:24 PM
                             [**2182-4-5**]  04:21 AM
                             [**2182-4-5**]  01:47 PM
   WBC
   8.9
   Hct
   30.6
   30.3
   Plt
   246
   Cr
   0.8
   TCO2
   28
   28
   Glucose
   84
   Other labs: PT / PTT / INR:13.0/28.5/1.1, ALT / AST:99/96, Alk Phos / T
   Bili:74/0.4, Differential-Neuts:75.8 %, Lymph:14.5 %, Mono:5.0 %,
   Eos:4.2 %, Lactic Acid:1.7 mmol/L, LDH:213 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   Mr. [**Known lastname 3605**] is a 37M with a PMH s/f severe alcoholism with several ICU
   admissions for management of airway protection/withdrawal in the past,
   HCV, and HBV, found unresponsive in the setting of alcohol
   intoxication, intubated for airway protection, with incidentally
   diagnosed leukocytosis on routine labs.
    #. Altered mental status: DDX includes ETOH intoxication with level of
   280, other toxic ingestion, intracranial bleed from his fall, seizure
   from ETOH withdrawl vs. trauma. Head CT negative for a bleed, CT Cspine
   negative for fracture, and no clear toxic-metabolic abnormalities on
   initial labs.  He does have a leukocytosis, however, no fevers or
   hemodynamic instability.  Since extubation yesterday, he seems to have
   come back to baseline MS.
   #. ETOH intoxication: Patient has a history of withdrawl seizures.
   Also has severe anxiety at baseline, and is difficult to monitor with a
   CIWA scale, as his subjective symptoms have been unreliable. Here, he
   currently has no objective signs of withdrawl- no HTN, tachycardia,
   hyperthermia. Got 30 Valium in last 24 hrs. Will monitor for signs/
   symptoms of withdrawl but currently roughly 48 hrs since last use and
   not showing any signs of withdrawl
   -MVI, thiamine, folic acid PO
   #. Leukocytosis: no current fevers, or signs of sepsis.  CXR and UA
   clear.  Has since resolved.
   -Will send urine, blood, and sputum cultures if he spikes.
   # Pancreatitis:  lipase elevated and had abdominal pain on exam
   originally but has since resolved. Will continue to monitor.
   #. HCV/HBV: previous hx transaminitis, at baseline
   #. Depression/anxiety: No current treatment for this.
   - SW consulted- may try to Section 35 if pt still here on Mon.
   ICU Care
   Nutrition: regular diet
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2182-4-5**] 06:00 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2182-04-06 11:20:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Successfully extubated, fem line out, PIV in
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2182-4-5**] 11:30 AM
 MULTI LUMEN - STOP [**2182-4-5**] 06:07 PM
   Allergies:
   Penicillins
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2182-4-6**] 04:00 AM
   Famotidine (Pepcid) - [**2182-4-6**] 11:02 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-6**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36
C (96.8
   HR: 82 (71 - 144) bpm
   BP: 120/74(85) {81/37(48) - 135/76(89)} mmHg
   RR: 13 (8 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 70 kg (admission): 70 kg
   Height: 68 Inch
             Total In:
                                                                  5,082 mL
                                                                  1,566 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                  4,262 mL
                                                                  1,566 mL
   Blood products:
   Total out:
                                                                  2,048 mL
                                                                  1,300 mL
   Urine:
                                                                  2,048 mL
                                                                  1,300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,034 mL
                                                                    266 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: Standby
   SpO2: 97%
   ABG: ///25/
   Physical Examination
   Gen: dishelved man, sitting up in bed,
   HEENT: o/p dry
   CV: RR
   Chest: CTA
   Abd: soft NT
   Ext: no edema
   Neuro: alert, mildly agitated
   Labs / Radiology
   10.3 g/dL
   208 K/uL
   84 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.0 mEq/L
   6 mg/dL
   107 mEq/L
   138 mEq/L
   30.7 %
   6.1 K/uL
        [image002.jpg]
                             [**2182-4-4**]  06:55 PM
                             [**2182-4-4**]  11:24 PM
                             [**2182-4-5**]  04:21 AM
                             [**2182-4-5**]  01:47 PM
                             [**2182-4-6**]  07:20 AM
   WBC
   8.9
   6.1
   Hct
   30.6
   30.3
   30.7
   Plt
   246
   208
   Cr
   0.8
   0.7
   TCO2
   28
   28
   Glucose
   84
   84
   Other labs: PT / PTT / INR:13.0/28.5/1.1, ALT / AST:99/96, Alk Phos / T
   Bili:74/0.4, Differential-Neuts:75.8 %, Lymph:14.5 %, Mono:5.0 %,
   Eos:4.2 %, Lactic Acid:1.7 mmol/L, LDH:213 IU/L, Ca++:8.2 mg/dL,
   Mg++:1.6 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 .H/O ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   1.       Resp Failure: successfully extubated, doing well from a
   respiratpory standpoint
   2.       ETOH withdrawl: received Valium 10 mg x 3 overnight. CIWA.
   MIVU folate thiamine
 no in overt withdrawl at present continue CIWA
   and OK for transfer to floor.
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2182-4-5**] 06:00 PM
   Prophylaxis:
   DVT: Sc hep or ambulation
   Stress ulcer: PPI or eating
   Communication:  with pt
   [**Name (NI) 66**] status: Full code
   Disposition :Transfer to floor
   Total time spent: